US06716863B2
(i) 2-(1-{3-[3-(benzyloxy)phenyl]propyl}-1H-imidazol-2-yl)-1-ethanol
Using benzyl 3-(3-iodopropyl)phenyl ether (3.53 g), 2-(2-hydroxyethyl)imidazole (1.46 g) and 65% oily sodium hydride (0.48 g), the same reaction as Reference Example 11-(iv) was carried out to yield the titled compound (2.66 g) as a colorless oily substance.

reactant | benzyl 3-(3-iodopropyl)phenyl ether | 3.53 g | ICCCC=1C=C(C=CC1)OCC1=CC=CC=C1 | C16H17IO
reactant | 2-(2-hydroxyethyl)imidazole | 1.46 g | OCCC=1NC=CN1 | C5H8N2O
reactant | sodium hydride | 0.48 g | [H-].[Na+]
product | 2-(1-{3-[3-(benzyloxy)phenyl]propyl}-1H-imidazol-2-yl)-1-ethanol | 2.66 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCCN1C(=NC=C1)CCO | C21H24N2O2
